US09108938B2
2,3-dichloro-N-(2-(4,4-difluoropiperidin-1-yl)-2-(2-(dimethylamino)pyrimidin-5-yl)ethyl)benzamide
From 2,3-dichlorobenzoic acid and 5-(2-amino-1-(4,4-difluoropiperidin-1-yl)ethyl)-N,N-dimethylpyrimidin-2-amine.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 5-(2-amino-1-(4,4-difluoropiperidin-1-yl)ethyl)-N,N-dimethylpyrimidin-2-amine | NCC(N1CCC(CC1)(F)F)C=1C=NC(=NC1)N(C)C | C13H21F2N5
product | 2,3-dichloro-N-(2-(4,4-difluoropiperidin-1-yl)-2-(2-(dimethylamino)pyrimidin-5-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=NC2)N(C)C)N2CCC(CC2)(F)F)C=CC=C1Cl | C20H23Cl2F2N5O
